US07446216B2
Bis(4-bromo-2-isopropyl-1H-inden-1-yl)(dimethyl)silane
To a solution of 23.7 g (100 mmol) of 4-bromo-2-isopropyl-1H-indene in 600 ml of ether, 40.0 ml (100 mmol) of 2.5 M nBuLi in hexanes was added at room temperature. The mixture was stirred for 24 h at this temperature, and then 6.45 g (50.0 mmol) of dichlorodimethylsilane was added. The resulting mixture was stirred for 36 h at ambient temperature, and then 200 ml of water was added. The organic layer was separated, dried over Na2SO4, and evaporated to dryness. The product was isolated by MPLC on Silica Gel 60 (40-63 um, d 50 mm, l 500 mm; eluent—hexanes). Yield 16.6 g (63%) of a ca. 4:3 mixture of rac- and meso-products.

reactant | 4-bromo-2-isopropyl-1H-indene | 100 mmol, 23.7 g | BrC1=C2C=C(CC2=CC=C1)C(C)C | C12H13Br
reactant | nBuLi | 100 mmol, 2.5 M, 40.0 ml | [Li]CCCC
reactant | dichlorodimethylsilane | 50.0 mmol, 6.45 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | water | 200 ml | O | H2O
solvent | ether | 600 ml | CCOCC | C4H10O
product | Bis(4-bromo-2-isopropyl-1H-inden-1-yl)(dimethyl)silane | BrC1=C2C=C(C(C2=CC=C1)[Si](C)(C)C1C(=CC2=C(C=CC=C12)Br)C(C)C)C(C)C | C26H30Br2Si
